US04985419
1,2-Diaminocyclohexane (7.98 g) is added to an ethanolic solution (30 cc), saturated with hydrogen sulphide, of 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide, L series (2.79 g). The mixture is heated in an autoclave at 150° C. for 17 hours, then diluted with ethyl acetate (250 cc) and washed with distilled water (4×200 cc). The organic phase is separated after settling has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is stirred with boiling acetonitrile (6×30 cc), and the oil obtained is solidified by stirring with isopropyl ether (100 cc). The residue is chromatographed on a column (height: 52 cm; diameter: 2.5 cm) of silica gel (0.2-0.06 mm), eluting with a 60:40 (by volume) mixture (2 liters) of 1,2-dichloroethane and methanol and collecting 120-cc fractions. The first liter is discarded, and fractions 4 to 7 containing the pure product are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}phenothiazine, L series (1.8 g) in the form of a yellow solid.

reactant | 1,2-Diaminocyclohexane | 7.98 g | NC1C(CCCC1)N | C6H14N2
reactant | hydrogen sulphide | S | H2S
reactant | 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide | OC[C@@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C21H25N3OS2
reactant | isopropyl ether | 100 cc | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 250 cc | C(C)(=O)OCC | C4H8O2
product | 2-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}phenothiazine | N1C(=NC2C1CCCC2)C2=CC=1N(C3=CC=CC=C3SC1C=C2)C(CN2[C@H](CCC2)CO)C | C27H34N4OS
